US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-4-(piperidin-1-yl)benzamido)-4-phenylbenzoate (0.13 g) in methanol (1.5 mL) and ethyl acetate (3.0 mL), 10% palladium-carbon (0.063 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. Ethyl acetate was added to the reaction mixture. The insoluble substance was removed by filtration, and then the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue, and the solid substance was collected by filtration to obtain 0.084 g of tert-butyl 2-(2-hydroxy-4-(piperidin-1-yl)benzamido)-4-phenylbenzoate as a white solid.

reactant | tert-butyl 2-(2-(benzyloxy)-4-(piperidin-1-yl)benzamido)-4-phenylbenzoate | 0.13 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)N1CCCCC1 | C36H38N2O4
solvent | methanol | 1.5 mL | CO | CH4O
solvent | ethyl acetate | 3.0 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 0.063 g | [C].[Pd]
product | tert-butyl 2-(2-hydroxy-4-(piperidin-1-yl)benzamido)-4-phenylbenzoate | 0.084 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)N1CCCCC1 | C29H32N2O4
